* opamp_2pole.sub - generic two-pole opamp macromodel for ngspice
*
* Board-level model for AC / transient / noise analysis of the VLC boards in
* ngspice.  The vendor macro-models (TI PSpice, ADI/LTspice) use tool-specific
* devices and do not run in ngspice, so this model reproduces the dominant
* behaviour of the part from datasheet-style parameters.
*
* Input-referred noise is represented with thermal-noise resistors so that
* ngspice's .noise analysis accounts for it:
*     en [V/rtHz]  -> series resistor      Ren = en^2 / (4kT)
*     in [A/rtHz]  -> buffered resistor    Rin = 4kT / in^2
* The current-noise resistor is driven by a unity buffer across the input, so it
* injects the noise current without loading the virtual-ground input node.
* The two poles are made with 1 ohm RC sections, whose own thermal noise is
* negligible (<0.13 nV/rtHz) and is divided by the open-loop gain.
*
* Pins: inp inm out vp vn        (vp/vn accepted for netlist compatibility)
* Defaults describe a generic 4 GHz-GBW CMOS opamp (e.g. LTC6268-class).
*
.subckt OPAMP2P inp inm out vp vn
+ params: a0=1e5 fp1=40k fp2=2e9 rout=10 en=4n in=1f cin=1.5p
.param PI=3.141592653589793
.param KT=4.141947e-21
.param REN={en*en/KT}
.param RIN={KT/(in*in)}
.param CP1={1/(2*PI*fp1)}
.param CP2={1/(2*PI*fp2)}
* input voltage-noise equivalent resistance (series with each input)
Renp inp nip {REN}
Renm inm nim {REN}
Cip  nip 0 {cin}
Cim  nim 0 {cin}
* input current-noise equivalent resistance, buffered to avoid loading
Ebup bufp 0 nip 0 1
Ebum bufm 0 nim 0 1
Rinp nip bufp {RIN}
Rinm nim bufm {RIN}
* open-loop gain and two poles
E0  g0 0 nip nim {a0}
Rp1 g0 g1 1
Cp1 g1 0 {CP1}
Eb1 g2 0 g1 0 1
Rp2 g2 g3 1
Cp2 g3 0 {CP2}
Eb2 o1 0 g3 0 1
Rout o1 out {rout}
Rdc  out 0 1e12
.ends OPAMP2P
