* Pre-emphasis T filter (channel A) - passive, 50 ohm system.
* Values from Transmitter/PRE/preenfasis.kicad_sch.  Ports: in out gnd
.subckt PREEMPHASIS in out gnd
R1 in out 825
C1 in c1 62p
L1 c1 out 150n
R3 in m 49.9
R4 m out 49.9
R2 m c2 3
C2 c2 gnd 62p
L2 c2 gnd 150n
.ends PREEMPHASIS
