* RX amplifier board (BGA616 buffer).  Values from Receiver/AMP/rx_amp.kicad_sch.
* The deck must include the BGA616 model.  Ports: in out vcc gnd
.subckt RXAMP in out vcc gnd
C1 in amp_in 0.1u
XB amp_in amp_out gnd BGA616
L1 n3 n1b 10u
R1 n3 n1a 15
L3 vcc n3 0.22u
C3 n3 gnd 0.1u
L2 n1b amp_out 10u
C2 amp_out out 0.1u
.ends RXAMP
