* tia_block.sub - transimpedance gain block for ngspice (board-level)
*
* Models a complete TIA (internal feedback) as a two-pole opamp with an
* internal Rf/Cf.  Used for parts whose vendor model is not ngspice-compatible
* (e.g. LMH34400).  Input voltage/current noise are handled by OPAMP2P.
*
* Parameters:
*     zt   transimpedance gain [V/A]
*     fp   -3 dB bandwidth of the closed loop [Hz]
*     en   input voltage noise density [V/rtHz]
*     in   input current noise density [A/rtHz]
*     cin  input capacitance [F]
*     a0   opamp DC gain
*
.subckt TIABLK in out vp vn
+ params: zt=20k fp=240Meg en=2.35n in=2.5p cin=1.5p a0=1e5 rout=0.1
.param PI=3.141592653589793
.param CTOT=8.0p   ! includes ~5p photodiode + 1.5p opamp input
.param GBW={(2*PI*zt*CTOT)*fp*fp}
.param FP1={GBW/a0}
XOP 0 in nint vp vn OPAMP2P a0={a0} fp1={FP1} fp2=5e9 rout=10
+ en={en} in={in} cin={cin}
Rf  nint in {zt}
Cf  nint in {1/(2*PI*fp*zt)}
Ro  nint out {rout}
Rdc out 0 1e12
.ends TIABLK
