* Discrete TX amplifier (BFR740L3RH).  Values from tx_amplifier.kicad_sch.
* The deck must include the BFR740L3RH model.  Ports: in out vcc gnd
.subckt TXAMP in out vcc gnd
C1 in b 1u
R4 b n6 910
C6 n6 c 220n
R2 b nb 39k
R3 c nb 160
R1 nb vcc 47
C2 nb gnd 220n
L1 c c5 22n
C3 c gnd 8.2p
C4 gnd c4 4.7p
L2 c5 c4 9.1n
C5 c5 out 1u
XQ1 c b gnd BFR740L3RH
.ends TXAMP
