* RX chain noise: photodiode -> TIA (LMH34400) -> RX amplifier.
.include ../models/lmh34400.lib
.include ../models/bga616.lib
.include ../models/rx_amp.sub
.param VCC=3.3
Vdd  vdd 0 {VCC}
Ven  nen 0 0
Valc nidc 0 3.3
Ipd  0 pd ac 1
Cd   pd 0 1p
XU1  pd vdd nen nidc 0 tiaout LMH34400
Vrx  vccrx 0 5
XRX  tiaout out vccrx 0 RXAMP
Rl   out 0 50
.noise v(out) Ipd dec 50 100k 500Meg
.end
